US04851422
In 100 ml of dichloromethane was dissolved 5.0 g of 5-oxo-2-tetrahydrofurancarboxylic acid. To the solution was added 0.3 ml of concentrated sulfuric acid at -60° C., to which was added an excess volume of isobutene (about 50 ml). The reaction mixture was allowed to stand at room temperature overnight in a sealed vessel, which was then poured into a cooled aqueous solution of sodium hydrogen carbonate. The dichloromethane layer was taken, washed with water and dried (Na2SO4), followed by concentration to give t-butyl 5-oxo-2-tetrahydrofurancarboxylate as colorless oil.

reactant | 5-oxo-2-tetrahydrofurancarboxylic acid | 5.0 g | O=C1CCC(O1)C(=O)O | C5H6O4
reactant | sulfuric acid | 0.3 ml | S(O)(O)(=O)=O | H2O4S
reactant | isobutene | about 50 ml | C=C(C)C | C4H8
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | t-butyl 5-oxo-2-tetrahydrofurancarboxylate | O=C1CCC(O1)C(=O)OC(C)(C)C | C9H14O4
